US08476302B2
A two-phase solution of the 2-hydroxy-8-phenyloctanimidate, ethyl acetate (50 mL), and water (50 mL) was stirred overnight. The layers were separated and the organic phase was dried (Na2SO4), filtered and concentrated to yield methyl 2-hydroxy-8-phenyloctanoate as an oil. The oil was dissolved in 9:1 dioxane-water (50 mL) containing LiOH (1.7 g). After 2 h of stirring, the mixture was acidified with 2N HCL to pH˜3. The resulting mixture was extracted twice with EtOAc and the combined organic phases were washed with brine, dried (Na2SO4), filtered and concentrated to yield 2-hydroxy-8-phenyloctanoic acid as a solid.

reactant | 2-hydroxy-8-phenyloctanimidate | OC(C([O-])=N)CCCCCCC1=CC=CC=C1
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 50 mL | O | H2O
product | methyl 2-hydroxy-8-phenyloctanoate | OC(C(=O)OC)CCCCCCC1=CC=CC=C1 | C15H22O3
